US09056859B2
A solution of methyl (3-fluoro-2-iodophenyl)acetate (1.2 g, 4 mmol) in 25 mL of ethanol was cooled to 0˜5° C., CaCl2 (900 mg, 8 mmol) was added and the mixture was stirred at 0˜5° C. for 10 min. NaBH4(600 mg, 15.7 mmol) was added slowly. The reaction was warmed to room temperature and stirred at room temperature for 2 hours. Recooled to 0˜5° C., quenched with aqueous citric acid solution, extracted with EtOAc. The organic layers were washed with water and brine, dried over anhydrous sodium sulfate and concentrated to get 2-(3-fluoro-2-iodophenyl)ethanol. 1H-NMR (400 MHz, CDCl3) δ ppm 7.15˜7.20 (m, 1H), 6.99˜7.00 (m, 1H), 6.84˜6.88 (m, 1H), 3.81 (t, J=7.0 Hz, 2H), 3.02 (t, J=7.0 Hz, 2H).

reactant | methyl (3-fluoro-2-iodophenyl)acetate | 4 mmol, 1.2 g | FC=1C(=C(C=CC1)CC(=O)OC)I | C9H8FIO2
reactant | CaCl2 | 8 mmol, 900 mg | [Cl-].[Cl-].[Ca+2]
reactant | NaBH4 | 15.7 mmol, 600 mg | [BH4-].[Na+]
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 2-(3-fluoro-2-iodophenyl)ethanol | FC=1C(=C(C=CC1)CCO)I | C8H8FIO
